US06897231B2
A. 2-Oxo-N-(3-{1-perhydro-2H-pyran-2-yl-5[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-2-phenylacetamide
To a solution of 2-oxo-2-phenylacetic acid (0.074 g, 0.498 mmol) in 2.0 mL of dichloromethane, was added 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (EDCI) as a solid (0.098 g, 0.510 mmol). The solution was stirred at room temperature for 10 min before 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine (0.150 g, 0.248 mmol), dissolved in 1 mL of dichloromethane was added. After 2 days at room temperature, the reaction was not complete. Another 2 equivalents of EDCI were added to the mixture, driving the reaction to completion within 12 hours. The reaction mixture was then partitioned between dichloromethane and water. The crude material that was obtained from evaporation of the extracts was not purified further. (Yield not calculated) ES-MS (m/z) 735 [M+H]+.

reactant | 2-oxo-2-phenylacetic acid | 0.498 mmol, 0.074 g | O=C(C(=O)O)C1=CC=CC=C1 | C8H6O3
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 0.510 mmol, 0.098 g | Cl.CN(CCCN=C=NCC)C
reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine | 0.248 mmol, 0.150 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)N | C39H34N6O
reactant | EDCI | 2 equivalents | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 2-Oxo-N-(3-{1-perhydro-2H-pyran-2-yl-5[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-2-phenylacetamide | O=C(C(=O)NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1)C1=CC=CC=C1 | C47H38N6O3
